US04526962
3-(2-Anilinothiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (2.3 g) is treated with methanesulphonic acid (2.3 cc) in acetonitrile (23 cc) by following the procedure described in Reference Example 1. This gives crude 7-amino-3-(2-anilinothiazol-5-yl)-2-benzhydryloxycarbonyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.85 g), which is acylated with (thien-2-yl)-acetyl chloride (0.445 cc) in tetrahydrofuran (25 cc), in the presence of triethylamine (0.505 cc), by following the procedure described in Reference Example 1. The crude product obtained is chromatographed on a column (height: 30 cm; diameter: 2.5 cm) of silica gel (0.04-0.06 mm), elution being carried out under a pressure of 1.2 bars (120 kPa) with a 70/30 (by volume) mixture of cyclohexane and ethyl acetate (3 liters), and 50 cc fractions being collected. Fractions 20 to 50 are combined and concentrated to dryness. After trituration in isopropyl ether, 3-(2-anilinothiazol-5-yl)-2-benzhydryloxycarbonyl-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.9 g) is obtained in the form of a yellow solid.

reactant | 3-(2-Anilinothiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 2.3 g | N(C1=CC=CC=C1)C=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H32N4O5S2
reactant | methanesulphonic acid | 2.3 cc | CS(=O)(=O)O | CH4O3S
reactant | (thien-2-yl)-acetyl chloride | 0.445 cc | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | triethylamine | 0.505 cc | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 23 cc | C(C)#N | C2H3N
solvent | tetrahydrofuran | 25 cc | O1CCCC1 | C4H8O
product | 3-(2-anilinothiazol-5-yl)-2-benzhydryloxycarbonyl-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.9 g | N(C1=CC=CC=C1)C=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(CC=1SC=CC1)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C35H28N4O4S3
